US08859569B2
1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile
1.485 g (4.03 mmol) of 1-(2-fluorobenzyl)-3-iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine and 397 mg (4.44 mmol) of copper(I) cyanide were put in 11 ml of absolute DMSO and heated for 2 h at 150° C. After cooling, the reaction mixture was filtered on Celite and then washed with ethyl acetate and THF. The organic phase was washed with 25% aqueous ammonia solution, saturated aqueous ammonium chloride solution and saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated in a rotary evaporator. 994 mg (purity 81%, 75% of theor.) of the target compound was obtained.

reactant | 1-(2-fluorobenzyl)-3-iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine | 4.03 mmol, 1.485 g | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)I)C=CC=C1 | C13H10FIN4
reactant | copper(I) cyanide | 4.44 mmol, 397 mg | [Cu]C#N
solvent | DMSO | 11 ml | CS(=O)C | C2H6OS
product | 1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C#N)C=CC=C1 | C14H10FN5
